// Generated for: spectre
// Generated on: Jun  8 18:54:22 2024
// Design library name: LDO_Lab
// Design cell name: tb_Load_Reg
// Design view name: schematic
simulator lang=spectre
global 0
parameters ILOAD=50m C1 C2 C3 IB
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_bip
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_33
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_mim
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_dnw
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_18
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_bip_npn
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_33
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfrtmom
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_mos_cap_25
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_18
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_disres
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_res
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_na
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfmos_33
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_hvt
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfmvar
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfmos_18
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_na
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_na33
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_lvt
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfres_sa
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_na33
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_esd
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfmim
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_25od33
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_25od33
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_mos_cap
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_25
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_25ud18
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_25
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfmos
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_25ud18
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_na25od33
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfjvar
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfmos_25
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rtmom
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_na25od33
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_na25
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfres_rpo
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_hvt
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfind
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfmvar_25
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_na25
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_lvt

// Library name: LDO_Lab
// Cell name: LDO_Core
// View name: schematic
subckt LDO_Core IBN_OTA VFB_IN VFB_OUT VIN VOUT VREF VSS
    M11 (VSET V2 VSS VSS) nch_mac l=500n w=1u multi=1 nf=1 sigma=1 sd=200n \
        ad=1.75e-13 as=1.75e-13 pd=2.35u ps=2.35u nrd=0.1 nrs=0.1 \
        sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
    M3 (V2 V2 VSS VSS) nch_mac l=500n w=1u multi=1 nf=1 sigma=1 sd=200n \
        ad=1.75e-13 as=1.75e-13 pd=2.35u ps=2.35u nrd=0.1 nrs=0.1 \
        sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
    M5 (net99 VREF net100 VSS) nch_mac l=500n w=1u multi=1 nf=1 sigma=1 \
        sd=200n ad=1.75e-13 as=1.75e-13 pd=2.35u ps=2.35u nrd=0.1 nrs=0.1 \
        sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
    M6 (net101 VOUT net100 VSS) nch_mac l=500n w=1u multi=1 nf=1 sigma=1 \
        sd=200n ad=1.75e-13 as=1.75e-13 pd=2.35u ps=2.35u nrd=0.1 nrs=0.1 \
        sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
    M1 (net100 IBN_OTA VSS VSS) nch_mac l=500n w=1u multi=1 nf=1 sigma=1 \
        sd=200n ad=1.75e-13 as=1.75e-13 pd=2.35u ps=2.35u nrd=0.1 nrs=0.1 \
        sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
    M4 (IBN_OTA IBN_OTA VSS VSS) nch_mac l=500n w=1u multi=1 nf=1 sigma=1 \
        sd=200n ad=1.75e-13 as=1.75e-13 pd=2.35u ps=2.35u nrd=0.1 nrs=0.1 \
        sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
    M14 (net85 IBN1_1U VSS VSS) nch_mac l=500n w=1u multi=1 nf=1 sigma=1 \
        sd=200n ad=1.75e-13 as=1.75e-13 pd=2.35u ps=2.35u nrd=0.1 nrs=0.1 \
        sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
    M15 (net84 net83 VSS VSS) nch_mac l=500n w=1u multi=1 nf=1 sigma=1 \
        sd=200n ad=1.75e-13 as=1.75e-13 pd=2.35u ps=2.35u nrd=0.1 nrs=0.1 \
        sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
    M12 (VFB_OUT IBN1_1U VSS VSS) nch_mac l=500n w=1u multi=1 nf=1 sigma=1 \
        sd=200n ad=1.75e-13 as=1.75e-13 pd=2.35u ps=2.35u nrd=0.1 nrs=0.1 \
        sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
    M2 (VG net85 VSS VSS) nch_mac l=500n w=1u multi=1 nf=1 sigma=1 sd=200n \
        ad=1.75e-13 as=1.75e-13 pd=2.35u ps=2.35u nrd=0.1 nrs=0.1 \
        sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
    M13 (IBN1_1U IBN1_1U VSS VSS) nch_mac l=500n w=1u multi=1 nf=1 sigma=1 \
        sd=200n ad=1.75e-13 as=1.75e-13 pd=2.35u ps=2.35u nrd=0.1 nrs=0.1 \
        sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
    M10 (V2 net101 VIN VIN) pch_mac l=500n w=1u multi=1 nf=1 sigma=1 \
        sd=200n ad=1.75e-13 as=1.75e-13 pd=2.35u ps=2.35u nrd=0.1 nrs=0.1 \
        sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
    M9 (net101 net99 VIN VIN) pch_mac l=500n w=1u multi=1 nf=1 sigma=1 \
        sd=200n ad=1.75e-13 as=1.75e-13 pd=2.35u ps=2.35u nrd=0.1 nrs=0.1 \
        sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
    M8 (VSET net99 VIN VIN) pch_mac l=500n w=1u multi=1 nf=1 sigma=1 \
        sd=200n ad=1.75e-13 as=1.75e-13 pd=2.35u ps=2.35u nrd=0.1 nrs=0.1 \
        sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
    M7 (net99 net99 VIN VIN) pch_mac l=500n w=1u multi=1 nf=1 sigma=1 \
        sd=200n ad=1.75e-13 as=1.75e-13 pd=2.35u ps=2.35u nrd=0.1 nrs=0.1 \
        sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
    M20 (VFB_OUT VSET VOUT VOUT) pch_mac l=500n w=1u multi=1 nf=1 sigma=1 \
        sd=200n ad=1.75e-13 as=1.75e-13 pd=2.35u ps=2.35u nrd=0.1 nrs=0.1 \
        sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
    M0 (VOUT VG VIN VIN) pch_mac l=500n w=1u multi=1 nf=1 sigma=1 sd=200n \
        ad=1.75e-13 as=1.75e-13 pd=2.35u ps=2.35u nrd=0.1 nrs=0.1 \
        sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
    M19 (net84 net84 VIN VIN) pch_mac l=500n w=1u multi=1 nf=1 sigma=1 \
        sd=200n ad=1.75e-13 as=1.75e-13 pd=2.35u ps=2.35u nrd=0.1 nrs=0.1 \
        sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
    M18 (VG VG VIN VIN) pch_mac l=500n w=1u multi=1 nf=1 sigma=1 sd=200n \
        ad=1.75e-13 as=1.75e-13 pd=2.35u ps=2.35u nrd=0.1 nrs=0.1 \
        sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
    M17 (net85 VFB_IN VG VG) pch_mac l=500n w=1u multi=1 nf=1 sigma=1 \
        sd=200n ad=1.75e-13 as=1.75e-13 pd=2.35u ps=2.35u nrd=0.1 nrs=0.1 \
        sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
    M16 (VG net84 VIN VIN) pch_mac l=500n w=1u multi=1 nf=1 sigma=1 \
        sd=200n ad=1.75e-13 as=1.75e-13 pd=2.35u ps=2.35u nrd=0.1 nrs=0.1 \
        sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
    R6 (net83 IBN1_1U) resistor r=1M
    C1 (VOUT VFB_OUT) capacitor c=C1
    C2 (VSET VSS) capacitor c=C2
    C3 (VOUT net83) capacitor c=C3
ends LDO_Core
// End of subcircuit definition.

// Library name: LDO_Lab
// Cell name: tb_Load_Reg
// View name: schematic
V3 (net5 0) vsource dc=1.2 type=dc
V2 (VIN 0) vsource dc=1.2 type=dc
V1 (VREF 0) vsource dc=1 type=dc
V0 (VSS 0) vsource dc=0 type=dc
C0 (VOUT VSS) capacitor c=10p
I1 (VOUT VSS) isource dc=ILOAD type=dc
I2 (net5 IBN_OTA) isource dc=IB type=dc
I0 (IBN_OTA VFB VFB VIN VOUT VREF VSS) LDO_Core
simulatorOptions options psfversion="1.1.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
dc dc param=ILOAD start=0 stop=100m oppoint=rawfile maxiters=150 \
    maxsteps=10000 annotate=status
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
